US08877815B2
To a solution of (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid (300 mg, 0.88 mmol) in DMF (1.5 mL) and DCM (1.5 mL) was added HATU (401 mg, 1.05 mmol) and triethylamine (0.37 mL, 2.64 mmol). To the mixture at room temperature was added dimethylamine (0.46 mL, 0.91 mmol). The mixture was stirred at room temperature for 2 hours, quenched with sat NaHCO3, and extracted with EtOAc. The organic layer was washed with water (8 times), brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by TLC preparation plates using 5% 2M Ammonia in MeOH and DCM to give (S)-tert-butyl 3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-ylcarbamate (196 mg). HPLC retention time=1.66 minutes (condition B); MS (m+1)=369.1; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.37 (s, 9H) 2.65 (s, 3H) 2.83 (s, 3H) 2.96 (d, J=7.1 Hz, 2H) 4.71-4.94 (m, 1H) 5.56 (d, J=8.6 Hz, 1H) 7.22 (d, J=8.1 Hz, 2H) 7.27 (t, J=7.5 Hz, 1H) 7.37 (t, J=7.6 Hz, 2H) 7.47 (d, J=8.1 Hz, 2H) 7.52 (d, J=7.3 Hz, 2H).

reactant | (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid | 0.88 mmol, 300 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H23NO4
reactant | HATU | 1.05 mmol, 401 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.64 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 0.91 mmol, 0.46 mL | CNC | C2H7N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 3-(biphenyl-4-yl)-1-(dimethylamino)-1-oxopropan-2-ylcarbamate | 196 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)N(C)C)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C22H28N2O3
